US07129238B2
(RS)-Ethoxy-(2-fluoro-4-methoxy-phenyl)-acetic acid, described in example 63.1 was coupled with 4-aminomethyl-3-methoxy-benzonitrile (CAS 182159-14-4) according to general procedure B to give (RS)-N-(4-cyano-2-methoxy-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide. Yellow oil. MS 373.2 ([M+H]+)

reactant | (RS)-Ethoxy-(2-fluoro-4-methoxy-phenyl)-acetic acid | C(C)OC(C(=O)O)C1=C(C=C(C=C1)OC)F | C11H13FO4
reactant | 4-aminomethyl-3-methoxy-benzonitrile | NCC1=C(C=C(C#N)C=C1)OC | C9H10N2O
product | (RS)-N-(4-cyano-2-methoxy-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | C(#N)C1=CC(=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=C1)OC | C20H21FN2O4
